US07186727B2
4-[(5S*,9R*)-7-Benzyl-3-(3,5-dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-9-yl]-benzonitrile
A mixture of (E)-4-((1-(3,5-dichlorophenyl)-3-methyl-2,5-dioxoimidazolidin-4-ylidene)methyl)benzonitrile (1.05 g, 2.82 mmol), hexamethylenetetramine (0.395 g, 2.82 mmol), N-benzylglycine (1.17 g, 7.05 mmol), toluene (5 ml), and 1-methyl-2-pyrrolidinone (NMP, 10 ml) was heated to 140° C. The extent of reaction was monitored by HPLC. After 72 hours, the reaction had stopped short of completion. The ratio of product to starting material ((E)-4-((1-(3,5-dichlorophenyl)-3-methyl-2,5-dioxoimidazolidin-4-ylidene)methyl)benzonitrile) was 1.36:1. Mass spectra of the mixture indicated the presence of the desired product. The mixture was washed with water and extracted into toluene. The impure product was obtained as an oil. Comparison of the product obtained to authentic material was made by HPLC. The ratio of the desired (5S, 9R) isomer to the undesired was 19:1.

reactant | (E)-4-((1-(3,5-dichlorophenyl)-3-methyl-2,5-dioxoimidazolidin-4-ylidene)methyl)benzonitrile | 2.82 mmol, 1.05 g | ClC=1C=C(C=C(C1)Cl)N1C(N(\C(\C1=O)=C\C1=CC=C(C#N)C=C1)C)=O | C18H11Cl2N3O2
reactant | hexamethylenetetramine | 2.82 mmol, 0.395 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | N-benzylglycine | 7.05 mmol, 1.17 g | C(C1=CC=CC=C1)NCC(=O)O | C9H11NO2
reactant | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | 1-methyl-2-pyrrolidinone | 10 ml | CN1C(CCC1)=O | C5H9NO
product | 4-[(5S*,9R*)-7-Benzyl-3-(3,5-dichlorophenyl)-1-methyl-2,4-dioxo-1,3,7-triazaspiro[4.4]non-9-yl]-benzonitrile | C(C1=CC=CC=C1)N1C[C@]2(C(N(C(N2C)=O)C2=CC(=CC(=C2)Cl)Cl)=O)[C@@H](C1)C1=CC=C(C#N)C=C1 | C27H22Cl2N4O2
